US09227919B2
Step-1: N—((R)-1-(Naphthalen-1-yl)ethyl)-1,2,3,4-tetrahydronaphthalen-2-amine
To a stirred solution of (R)-1-(naphthalen-1-yl)ethanamine (4.77 ml, 29.5 mmol) in methanol (50 mL) was added 3,4-dihydronaphthalen-2(1H)-one (4.80 g, 32.8 mmol) at 0° C. Acetic acid (2.349 mL, 41.0 mmol) was added and the reaction was stirred for 5 min. After that the reaction was warmed to RT and further stirred for 20 minutes. Again reaction was cooled to 0° C. and sodium cyanoborohydride (3.09 g, 49.2 mmol) was added stirred overnight at RT. After completion of reaction, —NaHCO3 solution (20 mL) and water (50 mL) were added and the mixture was extracted with ethyl acetate (50 mL×2). The extract was washed with saturated brine, dried over anhydrous Na2SO4 and evaporated under reduced pressure to get the crude compound. This was used directly in the next reaction (11.1 g, 36.8 mmol); m/z 302.65.

reactant | (R)-1-(naphthalen-1-yl)ethanamine | 29.5 mmol, 4.77 ml | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N | C12H13N
reactant | 3,4-dihydronaphthalen-2(1H)-one | 32.8 mmol, 4.80 g | C1C(CCC2=CC=CC=C12)=O | C10H10O
reactant | Acetic acid | 41.0 mmol, 2.349 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 49.2 mmol, 3.09 g | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | N—((R)-1-(Naphthalen-1-yl)ethyl)-1,2,3,4-tetrahydronaphthalen-2-amine | C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC1CC2=CC=CC=C2CC1 | C22H23N
